** sch_path: /foss/designs/ttgf-analog-openschnapp/xschem/ip_sigproc.sch
.subckt ip_sigproc vdd outp sig ref vsubs
*.PININFO sig:I ref:I vdd:B vsubs:B outp:O
x1 vdd net2 sig net2 vsubs ip_amplifier
x2 vdd net1 ref net3 vsubs ip_amplifier
XR1 net2 net3 vsubs ppolyf_u_1k_6p0 r_width=1e-6 r_length=15e-6
XR2 net3 net1 vsubs ppolyf_u_1k_6p0 r_width=1e-6 r_length=60e-6
XR3 net1 outp vsubs ppolyf_u_1k_6p0 r_width=2e-6 r_length=1e-6
.ends

* expanding   symbol:  ip_amplifier.sym # of pins=5
** sym_path: /foss/designs/ttgf-analog-openschnapp/xschem/ip_amplifier.sym
** sch_path: /foss/designs/ttgf-analog-openschnapp/xschem/ip_amplifier.sch
.subckt ip_amplifier VDD OUTP INP INN VSUBS
*.PININFO VDD:B VSUBS:B INP:I INN:I OUTP:O
XM1 COMP INP COMMON_ VDD pfet_03v3 L=5u W=18.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 net6 INN COMMON_ VDD pfet_03v3 L=5u W=18.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 net2 NBIAS VSUBS vsubs nfet_03v3 L=2u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM4 net1 NBIAS VSUBS vsubs nfet_03v3 L=2u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 NBIAS NBIAS net2 vsubs nfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM8 net3 NBIAS net1 vsubs nfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM9 net4 PBIAS VDD VDD pfet_03v3 L=2u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 net5 PBIAS VDD VDD pfet_03v3 L=2u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 PBIAS PBIAS net4 VDD pfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM12 COMMON PBIAS net5 VDD pfet_03v3 L=0.5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM13 COMP net6 VSUBS vsubs nfet_03v3 L=5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 net6 net6 VSUBS vsubs nfet_03v3 L=5u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM17 net8 PBIAS VDD VDD pfet_03v3 L=0.5u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM18 OUTP COMP VSUBS vsubs nfet_03v3 L=0.5u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XR3 NBIAS net7 vsubs ppolyf_u_1k r_width=1e-6 r_length=48e-6
Vmeas VDD net7 0
Vmeas1 PBIAS net3 0
XC1 OUTP net9 cap_pmos_03v3 c_width=13.5e-6 c_length=18e-6
XC2 COMP net9 cap_pmos_03v3 c_width=13.5e-6 c_length=18e-6
Vmeas2 COMMON COMMON_ 0
Vmeas3 net8 OUTP 0
XR2 VDD net9 vsubs ppolyf_u_1k r_width=1e-6 r_length=96e-6
.ends

